US07514566B2
5-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)indolin-2-one (2.00 g, 7.7 mmol), ethyl alcohol (77 mL), piperidine (0.15 mL, 1.5 mmol), and 2-furaldehyde (0.77 mL, 9.3 mmol) were added to a 250 mL round-bottomed flask. The flask was sealed under a septum and heated to 80° C. for 5 hours. The mixture was cooled and filtered through a medium glass frit. The filtrate was adsorbed onto a plug of silica gel and chromatographed through a Redi-Sep® pre-packed silica gel column (120 g), eluting with a gradient of 0% to 70% EtOAc in hexane. The combined fractions were evaporated, and the product was crystallized out of EtOAc and hexanes at −20° C. to give (E)-3-(furan-2-ylmethylene)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)indolin-2-one (1.02 g, 39%) as an orange solid. LCMS (M+H) 338.1 calc. for C19H21BNO4 338.1.

reactant | 5-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)indolin-2-one | 7.7 mmol, 2.00 g | CC1(OB(OC1(C)C)C=1C=C2CC(NC2=CC1)=O)C | C14H18BNO3
reactant | piperidine | 1.5 mmol, 0.15 mL | N1CCCCC1 | C5H11N
reactant | 2-furaldehyde | 9.3 mmol, 0.77 mL | O1C(=CC=C1)C=O | C5H4O2
solvent | ethyl alcohol | 77 mL | C(C)O | C2H6O
product | (E)-3-(furan-2-ylmethylene)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)indolin-2-one | 1.02 g, 39% | O1C(=CC=C1)\C=C/1\C(NC2=CC=C(C=C12)B1OC(C(O1)(C)C)(C)C)=O | C19H20BNO4
